US07491718B2
N-(4-ethylphenyl)-2-(hydroxyimino)acetamide
A mixture of chloral hydrate (26.48 g, 160 mmol), anhydrous sodium sulfate (381 g, 2.68 mol), and 4-ethylaniline (18.6 mL, 150 mmol) in water (910 mL) at 80° C. was treated sequentially with concentrated HCl (20 mL) and a solution of hydroxylamine hydrochloride (31.8 g, 458 mmol) in water (150 mL). The mixture was heated to 80° C. for 1 hour, cooled to room temperature, and filtered. The filter cake was dried under vacuum to provide the desired product. MS (DCI) m/e 193 (M+H)+, 211 (M+NH4)+.

reactant | chloral hydrate | 160 mmol, 26.48 g | ClC(C(O)O)(Cl)Cl | C2H3Cl3O2
reactant | sodium sulfate | 2.68 mol, 381 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | 4-ethylaniline | 150 mmol, 18.6 mL | C(C)C1=CC=C(N)C=C1 | C8H11N
reactant | HCl | 20 mL | Cl | ClH
reactant | hydroxylamine hydrochloride | 458 mmol, 31.8 g | Cl.NO
solvent | water | 910 mL | O | H2O
solvent | water | 150 mL | O | H2O
product | N-(4-ethylphenyl)-2-(hydroxyimino)acetamide | C(C)C1=CC=C(C=C1)NC(C=NO)=O | C10H12N2O2
